US04050921
2-(2-Methylphenylmethysulfinyl)pyridine N-oxide
To a vigorously stirred solution of 6.9 gm (0.03 mol) of 2-(2-methylphenylmethylthio)pyridine N-oxide in 50 ml of chloroform maintained at 0° to 10° C. is slowly added a solution of 6 gm (0.03 mol) MCPBA (85%) in 100 ml of chloroform. When addition is complete the temperature is allowed to rise to ambient. After sixteen hours the reaction solution is washed up in the manner described in Example 139.

reactant | 2-(2-methylphenylmethylthio)pyridine N-oxide | 0.03 mol, 6.9 gm | CC1=C(C=CC=C1)CSC1=[N+](C=CC=C1)[O-] | C13H13NOS
reactant | MCPBA | 0.03 mol, 6 gm | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Methylphenylmethysulfinyl)pyridine N-oxide | CC1=C(C=CC=C1)CS(=O)C1=[N+](C=CC=C1)[O-] | C13H13NO2S
